US05952382
(a) Preparation of 7-(1-adamantyl)-6-benzyloxy-2-bromonaphthalene
1.26 g (42 mmol) of sodium hydride (80% in oil) and 50 ml of DMF were introduced into a 3-necked flask, a solution of 12.5 g (35 mmol) of 7-(1-adamantyl)-6-hydroxy-2-bromonaphthalene in 100 ml of DMF was added dropwise and stirring was carried out until gas evolution had ceased. 5 ml (42 mmol) of benzyl bromide were then added and stirring was carried out at room temperature for 2 hours. The reaction mixture was poured into water and extracted with ethyl ether and the organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was taken up in ethanol, heated to reflux, cooled, filtered and dried. 12.5 g (80%) of the expected compound were collected, which compound had a melting point of 150°-1° C.

reactant | sodium hydride | 42 mmol, 1.26 g | [H-].[Na+]
reactant | 7-(1-adamantyl)-6-hydroxy-2-bromonaphthalene | 35 mmol, 12.5 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)O | C20H21BrO
reactant | benzyl bromide | 42 mmol, 5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-(1-adamantyl)-6-benzyloxy-2-bromonaphthalene | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)OCC2=CC=CC=C2 | C27H27BrO
